US09403798B2
4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-[4-(2,2,2-trifluoroethoxy)benzyl]-1,3,5-triazin-2(1H)-one
To an N,N-dimethylformamide solution of 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one (10.0 mg, 0.0260 mmol) synthesized in Synthesis Example 483a, cesium carbonate (10.3 mg, 0.0320 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (4.57 μL, 0.0320 mmol) were added and the resultant mixture was stirred at 70° C. for 2 and a half hours. After the completion of the reaction, the reaction solution was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (chloroform/ethyl acetate=1/1) to obtain the title compound (2.43 mg, yield: 14%).

reactant | 4-[4-(4-fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-(4-hydroxybenzyl)-1,3,5-triazin-2(1H)-one | 0.0260 mmol, 10.0 mg | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)O)=O | C21H19FN4O2
reactant | cesium carbonate | 0.0320 mmol, 10.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.0320 mmol, 4.57 μL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-(4-Fluorophenyl)-5,6-dihydropyridin-1(2H)-yl]-1-[4-(2,2,2-trifluoroethoxy)benzyl]-1,3,5-triazin-2(1H)-one | 2.43 mg, yield: 14% | FC1=CC=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC1=CC=C(C=C1)OCC(F)(F)F)=O | C23H20F4N4O2
